US07622480B2
Under nitrogen atmosphere, over a suspension of 0.55 g (13.72 mmol) of sodium hydride 60% in paraffin oil in 10 ml of DMF, a solution of 2.5 g (9.1 mmol) of 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester in 10 ml of DMF was added. After 30 minutes, a solution of 1.2 ml of 4-bromobutane in 2 ml of DMF was added. The crude mixture was stirred at room temperature for 15 hours. The solvent was removed under reduced pressure and the crude was partionated between ethyl acetate and water. The organic phase was dried over sodium sulphate, filtered and the solvent was removed under reduced pressure affording 3.1 g of 4-(1-butyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester.

reactant | sodium hydride | 13.72 mmol, 0.55 g | [H-].[Na+]
reactant | 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester | 9.1 mmol, 2.5 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=NC=CC=C21 | C15H19N3O2
reactant | 4-bromobutane | 1.2 ml | BrCCCC | C4H9Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(1-butyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester | 3.1 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=NC=CC=C21)CCCC | C19H27N3O2
